US06060459
Preparation of (5-carboxypentanoyl)guanosine
To 500 mg of guanosine in anhydrous pyridine was added adipic acid (5 mol eq) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (BOPDC) (1.0 mol eq.). The mixture was allowed to stir at room temperature for 18 h, then the solvent was removed in vacuo. The residue was added to 100 mL of ice-cooled water and the aqueous layer adjusted to pH 3.0 and then extracted three times with 60 mL of ethyl acetate. The combined extracts are dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was chromatographed on a silica gel column and eluted with a mixture of chloroform-ethanol, whereupon the eluate was evaporated in vacuo.

reactant | guanosine | 500 mg | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | adipic acid | 5 mol | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1.0 mol | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (5-carboxypentanoyl)guanosine | C(=O)(O)CCCCC(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C16H21N5O8
